US08541579B2
A solution of methyl N-{(1R)-1-(benzofuran-5-yl)-2-[(2-hydroxyphenyl)amino]-2-oxoethyl}-L-leucinate (410 mg) and 1,1′-thiocarbonyldiimidazole (196 mg) in dichloromethane (5 ml) was left to stand for 18 hours. Water (20 l) was added to the reaction mixture and this was then stirred rapidly for 30 minutes. After this, 1H-Benzotriazolium, 1-[bis(dimethylamino)methylene]-, tetrafluoroborate (1-), 3-oxide (TBTU, 710 mg) and a solution of dimethylamine in tetrahydrofuran (3 ml of 2M solution) were added. The reaction mixture was stirred for a further 18 hours and was then passed down an SPE (5 g, silica) eluting with a gradient (3:1 to 1:2 cyclohexane:ethyl acetate). The required fractions were combined and evaporated to furnish methyl N-[1-(benzofuran-5-yl)-2-(dimethylamino)-2-oxoethyl]-L-leucinate (140 mg).

reactant | methyl N-{(1R)-1-(benzofuran-5-yl)-2-[(2-hydroxyphenyl)amino]-2-oxoethyl}-L-leucinate | 410 mg | O1C=CC2=C1C=CC(=C2)[C@H](C(=O)NC2=C(C=CC=C2)O)N[C@@H](CC(C)C)C(=O)OC | C23H26N2O5
reactant | 1,1′-thiocarbonyldiimidazole | 196 mg | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | 1H-Benzotriazolium | [NH2+]1N=NC2=C1C=CC=C2
reactant | tetrafluoroborate | F[B-](F)(F)F
reactant | dimethylamine | CNC | C2H7N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 2M, 3 ml | O1CCCC1 | C4H8O
solvent | Water | 20 l | O | H2O
product | methyl N-[1-(benzofuran-5-yl)-2-(dimethylamino)-2-oxoethyl]-L-leucinate | 140 mg | O1C=CC2=C1C=CC(=C2)C(C(=O)N(C)C)N[C@@H](CC(C)C)C(=O)OC | C19H26N2O4
